### PR TITLE
Finish completeness

### LINKED ISSUE #87: Finish Completeness
- [x] Cases related to universes
    - #74
    - #81
- [x] Cases related to structures of term typing
    - #74
    - #81
- [x] Cases related to functions
    - #81
    - #84
- [x] Cases related to variables
    - #74
    - #81
    - #88
- [x] Cases related to structures of substitutions
    - #88
- [x] Cases related to natural numbers
    - #88
    - #90
- [x] Fundamental theorem
    - #90
- [x] Main completeness theorem
    - #90

### PR DESCRIPTION
**Pull request by Ailrun**
This PR resolves #87.

### CODE REVIEW

File: theories/Core/Completeness/NatCases.v [hunk 1]
```diff
@@ -97,6 +112,119 @@ Proof.
...
+  (on_all_hyp: fun H => edestruct (per_univ_then_per_top_typ H (S s)) as [? []]).
+  functional_read_rewrite_clear.
+  (on_all_hyp: fun H => unshelve epose proof (per_elem_then_per_top H _) as [? []]; [| | eassumption | exact s |]).
+  (on_all_hyp: fun H => unshelve epose proof (per_elem_then_per_top H _) as [? []]; [| | eassumption | exact (S (S s)) |]).
+  functional_read_rewrite_clear.
+  destruct (equiv_m_m' s) as [? []].
+  do 3 econstructor.
+  9,11,13,14: repeat econstructor.
+  all: eauto.
+Qed.
```
Comment (Ailrun) [inline theories/Core/Completeness/NatCases.v:204]: Thanks to the reusable proof structure, this one can use the proof of a previous lemma (`eval_natrec_neut`) almost as-is. Further more, this almost subsumes that previous lemma, so that lemma's proof now use this one.

File: theories/Core/Completeness/NatCases.v [hunk 2]
```diff
@@ -171,42 +349,318 @@ Lemma rel_exp_natrec_cong : forall {Γ MZ MZ' MS MS' A A' i M M'},
...
+    destruct_conjs.
+    handle_per_univ_elem_irrel.
+    do 2 eexists.
+    repeat split; only 1-2: repeat econstructor; eauto.
+    eapply per_bot_then_per_elem; [eassumption |].
+    eapply eval_natrec_sub_neut; only 7: eauto; eauto.
+    + do 2 eexists; [per_ctx_env_econstructor; eauto |]; apply_relation_equivalence; eauto.
+    + eexists; eauto.
+    + do 2 eexists; [do 2 (per_ctx_env_econstructor; eauto) |]; apply_relation_equivalence; eauto.
+Qed.
```
Comment (Ailrun) [inline theories/Core/Completeness/NatCases.v:477]: For the proof reusability, it applies here as well. Unfortunately, `eval_natrec_rel` lemma is not really subsumed by this one... (because of `{{ Dom r ≈ r' ∈ elem_rel }}` for `{{ rec m' ⟦return A'[q Id] | zero -> MZ'[Id] | succ -> MS'[q (q Id)] end⟧ p' ↘ r' }}` and `{{ rec m' ⟦return A' | zero -> MZ' | succ -> MS' end⟧ p' ↘ r' }}`, which is not super concise in terms of the proof size)

File: theories/Core/Semantic/Realizability.v [hunk 3]
```diff
@@ -98,3 +95,20 @@ Qed.
...
+  - do 2 eexists; intuition.
+  - destruct_conjs.
+    (on_all_hyp: destruct_rel_by_assumption tail_rel).
+    do 2 eexists; repeat split; only 1-2: econstructor; eauto.
+    apply_relation_equivalence.
+    eexists.
+    eapply per_bot_then_per_elem; eauto.
+    erewrite per_ctx_respects_length; mauto.
+    eexists; eauto.
+Qed.
```
Comment (Ailrun) [inline theories/Core/Semantic/Realizability.v:114]: I don't think this is the best placement, but giving a file only for this one also does not sound very clear as well... (especially the name of the file)

File: theories/Core/Completeness/FundamentalTheorem.v [hunk 4]
```diff
@@ -0,0 +1,96 @@
...
+  Completeness.FunctionCases
+  Completeness.NatCases
+  Completeness.SubstitutionCases
+  Completeness.TermStructureCases
+  Completeness.UniverseCases
+  Completeness.VariableCases
+  System.
+Import Domain_Notations.
+
+Section completeness_fundamental.
```
Comment (Ailrun) [inline theories/Core/Completeness/FundamentalTheorem.v:14]: Unfortunately, your trick (use `with` and `clear` self) does not work here, as automation tactics proves some `exp` cases just by reconstructing typing judgements and then use `exp_eq_refl` and `completeness_fundamental_exp_eq`.

File: theories/Core/Semantic/Realizability.v (hunk 3 above)
Comment (Ailrun) [reply theories/Core/Semantic/Realizability.v:114]: @HuStmpHrrr That one causes circular dependency because this one requires also `Realizability.v` which depends on `PER/Lemmas.v`

File: theories/Core/Completeness/NatCases.v [hunk 5]
```diff
@@ -113,54 +241,104 @@ Lemma eval_natrec_rel : forall {Γ env_relΓ MZ MZ' MS MS' A A' i m m'},
...
+
+Lemma rel_exp_natrec_cong_rel_typ: forall {Γ A A' i M M' env_relΓ},
+    {{ DF Γ ≈ Γ ∈ per_ctx_env ↘ env_relΓ }} ->
+    {{ Γ, ℕ ⊨ A ≈ A' : Type@i }} ->
+    {{ Γ ⊨ M ≈ M' : ℕ }} ->
+    forall p p' (equiv_p_p' : {{ Dom p ≈ p' ∈ env_relΓ }}),
+    exists elem_rel, rel_typ i (a_sub A {{{ Id,, M }}}) p (a_sub A {{{ Id,, M }}}) p' elem_rel.
```
[the remark this answers is not in the document]
Comment (Ailrun) [reply theories/Core/Completeness/NatCases.v]: It was a copy-paste error. All fixed now.

File: theories/Core/Completeness/NatCases.v (hunk 1 above)
Comment (Ailrun) [reply theories/Core/Completeness/NatCases.v:202]: This was before bd6c247, and now it is all proved by `mauto`. `eauto` was not enough as those constructors are not in the hint db `core`.

File: theories/Core/Semantic/Domain/Lemmas.v [hunk 6]
```diff
@@ -0,0 +1,14 @@
...
+Lemma drop_env_empty_env_no_op :
+  d{{{ empty_env ↯ }}} = empty_env.
+Proof.
+  unfold drop_env; simpl; reflexivity.
+Qed.
+
+Lemma drop_env_extend_env_cancel : forall p a,
+    d{{{ (p ↦ a) ↯ }}} = p.
+Proof.
+  unfold drop_env; simpl; reflexivity.
```
[the remark this answers is not in the document]
Comment (Ailrun) [reply theories/Core/Semantic/Domain/Lemmas.v]: Yeah, fixed.

File: theories/Core/Semantic/Realizability.v (hunk 3 above)
Comment (HuStmpHrrr) [reply theories/Core/Semantic/Realizability.v:114]: ok

File: theories/Core/Semantic/Domain/Lemmas.v [hunk 7]
```diff
@@ -0,0 +1,14 @@
+From Mcltt.Core Require Import Domain.Definitions.
+Import Domain_Notations.
+
+Lemma drop_env_empty_env_no_op :
+  d{{{ empty_env ↯ }}} = empty_env.
+Proof.
+  unfold drop_env; simpl; reflexivity.
```
[the remark this answers is not in the document]
Comment (Ailrun) [reply theories/Core/Semantic/Domain/Lemmas.v]: Oh right, I don't know why I wrote this lemma :)
